US09376422B2
2-Methyl-3-nitro-5-(trifluoromethyl)benzoic acid
To a stirred solution of 2-methyl-5-(trifluoromethyl)benzoic acid (2.00 g, 9.80 mmol) in H2SO4 (20 mL, 12 N) was added HNO3 (2 mL, 12N) at 0° C. After stirring for 3 hours, water was added and resulting precipitate was collected. The solid was washed with water and dried to give the titled compound as a white solid (1.90 g, 76% yield). 1H-NMR (400 MHz, CDCl3) δppm; 8.43 (s, 1H), 8.15 (s, 1H), 2.77 (s, 3H); MS (ES) [M−H] 247.8.

reactant | 2-methyl-5-(trifluoromethyl)benzoic acid | 9.80 mmol, 2.00 g | CC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C9H7F3O2
reactant | HNO3 | 12N, 2 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | H2SO4 | 12 N, 20 mL | OS(=O)(=O)O | H2O4S
product | 2-Methyl-3-nitro-5-(trifluoromethyl)benzoic acid | 1.90 g, 76% yield | CC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C9H6F3NO4
